US06531485B2
trans-7-[2-(3-Naphthalen-1-yl-3-oxo-propenyl)-5-oxo-cyclopentyl]-heptanoic acid methyl ester.
A solution of tetrakis(triphenylphosphine)palladium(0) (97 mg, 0.084 mmol) in dry toluene (10 mL) was evacuated under vacuum and was purged with carbon monoxide (3×). Naphthalene-1-carbonyl chloride (320 mg, 1.68 mmol) was added followed by addition of trans-7-[2-oxo-5-(2-tributylstannanyl-vinyl)-cyclopentyl)-heptanoic acid methyl ester (the compound of Preparation 1, Step D, 1.0 g, 1.85 mmol) and 2,6-di-tert-butyl-4-methylphenol (few crystals). The mixture was heated at 100° C. under an atmosphere of carbon monoxide for 24 h. The mixture was cooled to room temperature, diluted with ethyl acetate, and the insolubles were removed by filtration through a pad of Celite®. The filtrate was washed with 10% aqueous ammonium hydroxide, dried (magnesium sulfate), filtered, and concentrated. Purification by flash chromatography (hexanes to 20% ethyl acetate in hexanes) provided the title compound of Step A (162 mg). 1H NMR (CDCl3, 250 MHz) d 8.31 (m, 1H), 8.00 (d, 1H), 7.91 (m, 1H), 7.70 (dd, 1H), 7.55 (m, 3H), 6.91-6.71 (m, 2H), 3.68 (s, 3H), 2.75 (m, 1H), 2.42-2.11 (m, 5H), 2.00 (m, 1H), 1.81-1.20 (m, 9H), 1.94 (t, 2H); MS 407 (M+1), 424 (M+18).

reactant | Naphthalene-1-carbonyl chloride | 1.68 mmol, 320 mg | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | trans-7-[2-oxo-5-(2-tributylstannanyl-vinyl)-cyclopentyl)-heptanoic acid methyl ester | COC(CCCCCC[C@@H]1C(CC[C@H]1C=C[Sn](CCCC)(CCCC)CCCC)=O)=O
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.084 mmol, 97 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | trans-7-[2-(3-Naphthalen-1-yl-3-oxo-propenyl)-5-oxo-cyclopentyl]-heptanoic acid methyl ester | 162 mg | COC(CCCCCC[C@H]1[C@@H](CCC1=O)C=CC(=O)C1=CC=CC2=CC=CC=C12)=O | C26H30O4
